US05922727
1-(Cyclopentyl)methyl-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione and (cyclopentyl)methyl toluenesulfonate were reacted by the same method with example 20 to obtain the titled compound (84 mg).

reactant | 5-Isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1C(C1=CC(=CC(=C1)C)C)=O)=O)=O | C16H18N2O3
reactant | (cyclopentyl)methyl toluenesulfonate | C=1(C(=CC=CC1)S(=O)(=O)OCC1CCCC1)C | C13H18O3S
product | 1-(Cyclopentyl)methyl-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | 84 mg, Yield(%): 57.0 | C1(CCCC1)CN1C(NC(C(=C1C(C1=CC(=CC(=C1)C)C)=O)C(C)C)=O)=O | C22H28N2O3
